US06603006B2
24.0 g (75.4 mmoles) of ethyl 3-amino-4-(2-(phthalimido)ethoxy)crotonate and 18.9 g (79.2 mmoles) of methyl 2-(2-chlorobenzylidene)acetoacetate in 64 ml of ethanol were heated under reflux for 20 hours. The reaction mixture was diluted with 56 ml of ethanol and was cooled to crystallise the product. 14.2 g (yield 70%) of 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-(2-phthalimidoethoxy)methyl-1,4-dihydropyridine were obtained.

reactant | ethyl 3-amino-4-(2-(phthalimido)ethoxy)crotonate | 75.4 mmoles, 24.0 g | N\C(=C/C(=O)OCC)\COCCN1C(C=2C(C1=O)=CC=CC2)=O | C16H18N2O5
reactant | methyl 2-(2-chlorobenzylidene)acetoacetate | 79.2 mmoles, 18.9 g | ClC1=C(C=C(C(=O)OC)C(=O)C)C=CC=C1 | C12H11ClO3
solvent | ethanol | 64 ml | C(C)O | C2H6O
solvent | ethanol | 56 ml | C(C)O | C2H6O
product | 4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-2-(2-phthalimidoethoxy)methyl-1,4-dihydropyridine | 14.2 g, yield 70% | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C28H27ClN2O7
